data/oMe_Silver.jsonl
{"reaction_id": "NR-237_1-CC_2-c1ccccc1_3-c1ccccc1_4-c1ncccc1","level": "medium","name": "Staudinger Reaction","reactants_smiles": ["CCN=[N+]=[N-]","P(c1ccccc1)(c1ccccc1)(c1ncccc1)"],"products_smiles": ["CCN","O=P(c1ccccc1)(c1ccccc1)(c1ncccc1)"],"conditions": "H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN=[N+]=N[P+](c1ccccc1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "The lone pair on phosphorus attacks the electrophilic terminal nitrogen of the azide, favored by the high polarizability and nucleophilicity of phosphorus and the electron deficiency at the azide terminus."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN1N=NP1(c1ccccc1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "Intramolecular attack by the internal nitrogen on phosphorus forms a strained four-membered phosphatriazene ring, driven by proximity and the strong P–N bond formation."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCN=P(c1ccccc1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "The unstable ring collapses, expelling N₂, a very stable leaving group, to form the iminophosphorane, driven by entropic gain and N₂ stability."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC[NH+]=P(c1ccccc1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "Protonation of the iminophosphorane nitrogen increases electrophilicity at phosphorus, activating it toward nucleophilic attack by water."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCN[P](O)(c1ccccc1)(c1ccccc1)(c1ncccc1)","step_weight": 0,"rationale": "Water attacks the electrophilic phosphorus center, favored by the strong thermodynamic drive to form a P=O bond and the activation from prior protonation."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCN","step_weight": 0,"rationale": "Collapse of the intermediate expels the amine, driven by the stability of the P=O bond and relief of electronic strain on phosphorus."}],"description": "In the Staudinger reaction, the phosphine nucleophilically attacks the azide to form a phosphazide, which cyclizes and eliminates N₂ to give an iminophosphorane. Hydrolysis under aqueous conditions then converts this intermediate into a primary amine and phosphine oxide, driven by strong P=O bond formation."}
{"reaction_id": "NR-300_1-c1cncc(C)c1","level": "hard","name": "Seyfert-Gilbert Homologation","reactants_smiles": ["O=C([H])(c1cncc(C)c1)","COP(=O)(OC)C=[N+]=[N-]"],"products_smiles": ["c1cncc(C)c1C#C"],"conditions": "tert-Butoxide","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COP(=O)(OC)[C-]=[N+]=[N-]","step_weight": 0,"rationale": "tert-Butoxide deprotonates the acidic methylene between phosphonate and diazo groups, stabilized by resonance with the phosphonate and diazo moieties."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1cncc(C)c1C([H])(C(P(=O)(OC)OC)=[N+]=[N-])[O-]","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic aldehyde carbon, driven by the strong polarization of the C=O bond and lack of steric hindrance at c1cncc(C)c1."},{"step": 3,"type": "addition","subtype": "intramolecular_nucleophilic_addition","intermediate_smiles": "c1cncc(C)c1C1([H])C(P(O1)([O-])(OC)(OC))=[N+]=[N-]","step_weight": 0,"rationale": "The alkoxide oxygen attacks the phosphorus intramolecularly, favored by proximity and the electrophilicity of phosphorus enhanced by electron-withdrawing substituents."},{"step": 4,"type": "elimination","subtype": "cycloreversion","intermediate_smiles": "c1cncc(C)c1C([H])=C=[N+]=[N-]","step_weight": 0,"rationale": "Cycloreversion occurs as the strained cyclic intermediate breaks, releasing the diazo functionality and forming a cumulene, driven by relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1cncc(C)c1C([H])=[C]","step_weight": 0,"rationale": "Loss of nitrogen gas from the diazo group is highly favorable due to the stability of N2, generating a reactive carbene or vinylidene intermediate."},{"step": 6,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "c1cncc(C)c1C#C","step_weight": 0,"rationale": "A 1,2-shift rearranges the vinylidene to the thermodynamically stable terminal alkyne, driven by formation of a strong C≡C bond."}],"description": "Under strong basic conditions, the Seyferth–Gilbert homologation converts aldehydes into terminal alkynes via deprotonation of the diazomethylphosphonate, nucleophilic addition to the carbonyl, cycloaddition, and stepwise elimination to form the alkyne through a rearrangement."}
